US08097610B2
Preparation of [4-chloro-3-[2-(2,6-dimethyl-4-phenyl carbamoyl piperazine-1-yl)ethoxy]phenyl]acetic acid
A mixture of [4-chloro-3-[2-(2,6-dimethyl-4-phenyl carbamoyl piperazine-1-yl)ethoxy]phenyl]acetic acid methyl ester (50 mg), 2N sodium hydroxide (0.1 mL) and tetrahydrofuran (1 mL) was stirred at room temperature for 4 hours. After neutralizing with 2N hydrochloric acid, the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel to give the title compound (18 mg). Yield: 37%.

reactant | [4-chloro-3-[2-(2,6-dimethyl-4-phenyl carbamoyl piperazine-1-yl)ethoxy]phenyl]acetic acid methyl ester | 50 mg | COC(CC1=CC(=C(C=C1)Cl)OCCN1C(CN(CC1C)C1=CC=CC=C1)(C)C(N)=O)=O | C24H30ClN3O4
reactant | sodium hydroxide | 2N, 0.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | [4-chloro-3-[2-(2,6-dimethyl-4-phenyl carbamoyl piperazine-1-yl)ethoxy]phenyl]acetic acid | 18 mg, Yield: 37% | ClC1=C(C=C(C=C1)CC(=O)O)OCCN1C(CN(CC1C)C1=CC=CC=C1)(C)C(N)=O | C23H28ClN3O4
